US07119221B2
To a solution of 1-[9-(1-carboxycyclobutyl)-5-oxononyl]-1-cyclo-butanecarboxylic acid (7.83 g, 23.1 mmol) in aqueous NaOH (1M, 70 mL) and i-PrOH (70 mL) was added NaBH4 (0.659 g, 17.3 mmol). After stirring for 3.5 h, the reaction mixture was acidified to pH˜1 with conc HCl and extracted with Et2O (1×250 mL, 2×150 mL). The combined organic layers were washed with brine (250 mL), dried (Na2SO4) and concentrated in vacuo. The remaining residue was dried under high vacuum to give 1-[9-(1-carboxycyclobutyl)-5-hydroxynonyl]-1-cyclobutanecarboxylic acid (8.17 g, 97%, contains 7% (w/w) Et2O) as a thick, colorless oil. 1H NMR (CDCl3): δ=8.56 (br s, 3H), 3.58 (br s, 1H), 2.55–2.30 (m, 4H), 2.00–1.80 (m, 8H), 1.78 (t, J=7.7 Hz, 4H), 1.52–1.15 (m, 12H). 13C NMR (CDCl3): δ=183.0 (2×), 71.7, 47.7 (2×), 38.0 (2×), 37.1 (2×), 30.2 (2×), 30.1 (2×), 25.9 (2×), 25.0 (2×), 15.7 (2×).

reactant | 1-[9-(1-carboxycyclobutyl)-5-oxononyl]-1-cyclo-butanecarboxylic acid | 23.1 mmol, 7.83 g | C(=O)(O)C1(CCC1)CCCCC(CCCCC1(CCC1)C(=O)O)=O | C19H30O5
reactant | NaBH4 | 17.3 mmol, 0.659 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | NaOH | 1M, 70 mL | [OH-].[Na+]
solvent | i-PrOH | 70 mL | CC(C)O | C3H8O
product | 1-[9-(1-carboxycyclobutyl)-5-hydroxynonyl]-1-cyclobutanecarboxylic acid | 8.17 g | C(=O)(O)C1(CCC1)CCCCC(CCCCC1(CCC1)C(=O)O)O | C19H32O5
